US06569851B1
Preparation of 3-[N′-(2-Thioacetyl-3-methyl-butanoyl)-L-alaninyl]-amino-2,3-dihydro-1-methyl-5-phenyl-1H-1,4-benzodiazepin-2-one
Following General Procedure D above using 2-thioacetyl-3-methyl butanoic acid (Coric et al., J. Med. Chem. 39, 1210 (1996)) and 3-(L-alaninyl)-amino-2,3-dihydro-1-methyl-5-phenyl-1H-1,4-benzodiazepin-2-one, as described in Example 8-B, the title compound was prepared.

reactant | 2-thioacetyl-3-methyl butanoic acid | C(C)(=S)C(C(=O)O)C(C)C | C7H12O2S
reactant | 3-(L-alaninyl)-amino-2,3-dihydro-1-methyl-5-phenyl-1H-1,4-benzodiazepin-2-one | N[C@@H](C)C(=O)C1(C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)C)=O)N | C19H20N4O2
product | 3-[N′-(2-Thioacetyl-3-methyl-butanoyl)-L-alaninyl]-amino-2,3-dihydro-1-methyl-5-phenyl-1H-1,4-benzodiazepin-2-one | C(C)(=S)C(C(=O)N[C@@H](C)C(=O)C1(C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)C)=O)N)C(C)C | C26H30N4O3S
